US04656299
To a tetrahydrofuran solution of methoxycarbonyl cyclopentadienyl sodium (28 mmol/28 ml) preparated by the Rausch method, a tetrahydrofuran solution of methyl chloroformate (2 g/30 ml) was added under cooling with ice. When the solution reached room temperature, it was filtered and concentrated under reduced pressure. Then, methylene chloride was added thereto to precipitate slightly pink precipitates. The precipitates were collected by filtration and dried to obtain 1.23 g of dimethoxycarbonylcyclopentadienyl sodium.

reactant | methoxycarbonyl cyclopentadienyl sodium | 28 mmol, 28 ml | COC(=O)C1(C=CC=C1)[Na]
reactant | methyl chloroformate | 30 ml, 2 g | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | dimethoxycarbonylcyclopentadienyl sodium | 1.23 g, yield: 52% | COC(=O)C=1C(C=CC1)([Na])C(=O)OC | InChI=1S/C9H9O4.Na/c1-12-8(10)6-4-3-5-7(6)9(11)13-2;/h3-5H,1-2H3;
